US05594145
28.75 g of 2-amino-6-nitrobenzothiazole, 210 g of 30% hydrochloric acid and 29.5 g of water are introduced into a 750 ml pressure vessel at room temperature and subsequently heated to 50° C. After the reaction mixture has been stirred for 30 minutes, it is cooled to 20° C. 50.75 g of aqueous sodium nitrite solution are then metered in at a uniform rate in the course of 3 hours at 20°-30° C., with very vigorous stirring. After metering in has ended, stirring is continued for 2.5 hours at 20°-30° C. Then, excess nitrite is removed by adding approximately 15 g of 18% aqueous urea solution. The reaction vessel is subsequently sealed, and the reaction mixture is heated for 5 hours at 140°-150° C. (pressure approximately 4 bar). After the mixture has cooled to 20° C., the crystalline product is filtered off with suction, washed until neutral and dried at 60° C. to constant weight. 27.3 g of 6-nitrobenzothiazol-2-one with a pure substance content of 97.8% are obtained (corresponding to 92.4% yield). The product which is redissolved under alkaline conditions has a DSC melting point of 252.5° C.

reactant | 2-amino-6-nitrobenzothiazole | 28.75 g | NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O2S
reactant | hydrochloric acid | 210 g | Cl | ClH
reactant | sodium nitrite | 50.75 g | N(=O)[O-].[Na+]
solvent | water | 29.5 g | O | H2O
product | 6-nitrobenzothiazol-2-one | 27.3 g, 92.4% yield | [N+](=O)([O-])C1=CC2=C(NC(S2)=O)C=C1 | C7H4N2O3S
